US06107329
5-Chloro-1H-indole-2-carboxylic acid [(1S)-benzyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide
(S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one hydrochloride (0.8 mmol) and 5-chloro-1H-indole-2-carboxylic acid (0.9 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, 48 hour reaction time) and the product purified by chromatography on silica gel eluted with 50, 75 and 100 % ethyl acetate in hexanes followed by trituration from 1:1 ether-hexanes. Yield 266 mg, 76%; HPLC (60/40) 4.09 minutes (99%); PBMS 426/428 (MH+, 100%);

reactant | (S)-2-Amino-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one hydrochloride | 0.8 mmol | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=CC=C1
reactant | 5-chloro-1H-indole-2-carboxylic acid | 0.9 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
product | 5-Chloro-1H-indole-2-carboxylic acid [(1S)-benzyl-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-amide | C(C1=CC=CC=C1)[C@@H](C(=O)N1CCC(CC1)O)NC(=O)C=1NC2=CC=C(C=C2C1)Cl | C23H24ClN3O3
